US06174898B1
A mixture of 1,1-diphenyl-1-propanol (64 g, 0.30 mol), isopropanol (300 ml) and a 5 N solution of sulphuric acid (150 ml) was heated at reflux temperature for 18 h. The reaction mixture was cooled, diluted with water (600 ml) and extracted with toluene (3×150 ml). The combined organic phases was dried (Na2SO4) and the solvent was evaporated in vacuo to give a solid residue which was triturated with iso-octane. The solid was collected by filtration to give 28.8 g (49%) of 1,1-diphenyl-1-propene.

reactant | 1,1-diphenyl-1-propanol | 0.30 mol, 64 g | C1(=CC=CC=C1)C(CC)(O)C1=CC=CC=C1 | C15H16O
reactant | isopropanol | 300 ml | C(C)(C)O | C3H8O
reactant | sulphuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 600 ml | O | H2O
product | 1,1-diphenyl-1-propene | 28.8 g, 49% | C1(=CC=CC=C1)C(=CC)C1=CC=CC=C1 | C15H14
